US07307094B2
A mixture of 6-chloro-2-(5-methylthiophen-2-yl)benzoxazole-4-carboxylic acid (41 mg, 0.14 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (53 mg, 0.28 mmol), 1-hydroxybenzotriazole (38 mg, 0.28 mmol) and (S)-(−)-3-aminoquinuclidine dihydrochloride (35 mg, 0.17 mmol) in DMF (2 mL) was stirred at room temperature for 10 min, then triethylamine (0.08 mL, 0.56 mmol) was added. The resulting reaction mixture was stirred at room temperature for 4 h. The mixture was diluted with dichloromethane and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with dichloromethane (2×50 mL). The combined organic layers were washed with brine (2×25 mL), dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 dichloromethane/methanol/concentrated ammonium hydroxide) and recrystallization from acetonitrile to afford (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-6-chloro-2-(5-methylthiophen-2-yl)benzoxazole-4-carboxamide (30 mg, 55%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 9.43 (d, J=7.4 Hz, 1H), 8.12 (d, J=1.9 Hz, 1H), 7.74 (d, J=3.7 Hz, 1H), 7.64 (d, J=1.9 Hz, 1H), 6.90 (dd, J=3.7, 0.9 Hz, 1H), 4.33-4.29 (m, 1H), 3.54-3.47 (m, 1H), 3.15-3.03 (m, 2H), 2.95-2.90 (m, 2H), 2.85-2.79 (m, 1H), 2.61 (s, 3H), 2.15-2.05 (m, 2H), 1.86-1.76 (m, 2H), 1.75-1.65 (m, 1H); MS (ESI+) m/z 402 (M+H); HPLC>99% (AUC), tR=12.99 min.

reactant | 6-chloro-2-(5-methylthiophen-2-yl)benzoxazole-4-carboxylic acid | 0.14 mmol, 41 mg | ClC=1C=C2C(N=C(O2)C=2SC(=CC2)C)=C(C1)C(=O)O | C13H8ClNO3S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.28 mmol, 53 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.28 mmol, 38 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (S)-(−)-3-aminoquinuclidine dihydrochloride | 0.17 mmol, 35 mg | Cl.Cl.N[C@@H]1CN2CCC1CC2
reactant | triethylamine | 0.56 mmol, 0.08 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-6-chloro-2-(5-methylthiophen-2-yl)benzoxazole-4-carboxamide | 30 mg, 55% | N12C[C@H](C(CC1)CC2)NC(=O)C=2C=C(C=C1C2N=C(O1)C=1SC(=CC1)C)Cl | C20H20ClN3O2S
